US06414145B1
A solution of methyl 2-(4-fluorophenyl)-4-[2-(thiazol-2-yl)-3-(imidazol-1-yl)prop-1-en-1-yl]benzoate (E and Z isomers) (1.99 g; 5 mmol) in methanol (20 ml) was refluxed with 2N aqueous sodium hydroxide solution (5 ml; 10 mmol) for 2 hours. Methanol was then evaporated and the solution acidified to pH 5.5 with 6N HCl. The resulting precipitate was filtered, washed with water and dried to give 2-(4-fluorophenyl)-4-[2-(thiazol-2-yl)-3-(imidazol-1-yl)prop-1-en-1-yl]benzoic acid as a mixture of E and Z isomers. Yield=80%.

reactant | methyl 2-(4-fluorophenyl)-4-[2-(thiazol-2-yl)-3-(imidazol-1-yl)prop-1-en-1-yl]benzoate | 5 mmol, 1.99 g | FC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC(=C1)C=C(CN1C=NC=C1)C=1SC=CN1 | C23H18FN3O2S
reactant | sodium hydroxide | 10 mmol, 2N, 5 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-(4-fluorophenyl)-4-[2-(thiazol-2-yl)-3-(imidazol-1-yl)prop-1-en-1-yl]benzoic acid | Yield=80% | FC1=CC=C(C=C1)C1=C(C(=O)O)C=CC(=C1)C=C(CN1C=NC=C1)C=1SC=CN1 | C22H16FN3O2S
